US07579483B2
Synthesis of 4,5-dichlorothiophene-2-sulfonic acid [(E)-3-(5-fluoro-3-methyl-1H-indol-7-yl)-acryloyl]-amide.
A mixture of (E)-3-(5-fluoro-3-methyl-1H-indol-7-yl)-acrylic acid (772 g, 3.53 mole), 4,5-dichloro-2-thiophenesulfonamide (900 g, 3.88 mole), 4-(dimethylamino)pyridine (861 g, 7.06 mole) and EDCI (1.348 kg, 7.06 mole) in dichloromethane (25.5 L) was stirred at ambient temperature for 14 h. The solution was diluted with 2 M aqueous HCl (16 L), and stirred for 1.5 h, which induced precipitation of the product. The product was collected via vacuum filtration and washed sequentially with water (2×2 L), dichloromethane (2×2 L), and hexanes (2 L) to provide 1.044 kg (71% yield) of the desired title compound. 1H NMR (400 MHz, DMSO-d6) δ 2.23 (s, 3H), 6.71 (d, 1H, J=15.6 Hz), 7.22 (dd, 1H, J=10.0, 2.6 Hz), 7.27 (br s, 1H), 7.39 (dd, 1H, J=9.6, 2.6 Hz), 7.95 (s, 1H), 8.15 (dd, 1H, J=15.6, 1.2 Hz), 11.35 (s, 1H).

reactant | (E)-3-(5-fluoro-3-methyl-1H-indol-7-yl)-acrylic acid | 3.53 mole, 772 g | FC=1C=C2C(=CNC2=C(C1)/C=C/C(=O)O)C | C12H10FNO2
reactant | 4,5-dichloro-2-thiophenesulfonamide | 3.88 mole, 900 g | ClC=1C=C(SC1Cl)S(=O)(=O)N | C4H3Cl2NO2S2
reactant | EDCI | 7.06 mole, 1.348 kg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | 4-(dimethylamino)pyridine | 7.06 mole, 861 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25.5 L | ClCCl | CH2Cl2
solvent | HCl | 2 M, 16 L | Cl | ClH
product | 4,5-dichlorothiophene-2-sulfonic acid [(E)-3-(5-fluoro-3-methyl-1H-indol-7-yl)-acryloyl]-amide | 1.044 kg, 71% yield | FC=1C=C2C(=CNC2=C(C1)/C=C/C(=O)NS(=O)(=O)C=1SC(=C(C1)Cl)Cl)C | C16H11Cl2FN2O3S2
